US08809446B2
Preparation of 2-(methacryloyloxy)ethyl 2,2,4-trimethyl-3-oxopentanoate
To a 2-L flask was charged ethylene glycol (900 mL) and 2,2,4,4-tetramethyl-1,3-cyclobutanedione (210.3 g, 1.5 moles). While using good mixing, potassium carbonate (103.5 grams, 0.75 moles) was added. An exothermic reaction resulted and the batch temperature rose to approximately 60° C. The reaction was held for 1 hour between 50-60° C. The batch was then drowned into 1500 mL demineralized water and extracted with 500 mL ethyl acetate. The ethyl acetate was evaporated at 75° C. under 6 mm Hg vacuum. The resulting crude product was distilled through a 0.5×6 inch Penn-State packed column and the vapor boiling point recorded as 94° C. (<1 mmHg). The total recovery of 2-hydroxyethyl 2,2,4-trimethyl-3-oxopentanoate was 71% with an assay of 99.5% (GC). To a 2-L flask was charged N,N-dimethylacetamide (636 g), 2-hydroxyethyl-2,2,4-trimethyl-3-oxopentanoate (318 g, 1.57 moles), DMAP (0.31 g) and triethylamine (183.2 g). The reaction was cooled to 0-5° C. and methacryloyl chloride (194.4 g, 1.88 moles) was added dropwise at <10° C. over three hours. Once addition was complete, the reaction was stirred for an additional hour at <10° C. and then warmed to 40° C. for one hour. The reaction slurry was drowned into 763 mL of demineralized water and extracted at 40° C. with 763 mL of ethyl acetate. Acetic acid (25 g) was used to aid separation of layers. The lower aqueous layer was decanted and discarded and the organic layer washed with demineralized water (763 mL). The organic layer was dried with sodium sulfate and removed with a rotary evaporator at 60° C./5 mmHg. The crude product (GC assay 82.5%) was distilled in a Kugelrohr apparatus twice at 124° C./0.05 mmHg to provide the desired product (220 g, 93% GC assay).

reactant | 2,2,4,4-tetramethyl-1,3-cyclobutanedione | 1.5 moles, 210.3 g | CC1(C(C(C1=O)(C)C)=O)C | C8H12O2
reactant | potassium carbonate | 0.75 moles, 103.5 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxyethyl-2,2,4-trimethyl-3-oxopentanoate | 1.57 moles, 318 g | OCCOC(C(C(C(C)C)=O)(C)C)=O | C10H18O4
reactant | methacryloyl chloride | 1.88 moles, 194.4 g | C(C(=C)C)(=O)Cl | C4H5ClO
catalyst | DMAP | 0.31 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 763 mL | O | H2O
solvent | triethylamine | 183.2 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | 636 g | CN(C(C)=O)C | C4H9NO
solvent | ethylene glycol | 900 mL | C(CO)O | C2H6O2
product | 2-(methacryloyloxy)ethyl 2,2,4-trimethyl-3-oxopentanoate | 220 g, 93% | CC(C(=O)OCCOC(C(=C)C)=O)(C(C(C)C)=O)C | C14H22O5
